US08067448B2
(2R,3R)-2-(3-Chloro-4-cyano-2-methylphenylamino)-3-hydroxybutanoic acid
K2CO3 (3.15 g, 22.8 mmol) was added to a solution of 2-chloro-3-ethyl-4-fluorobenzonitrile (2.1 g, 11.4 mmol) and D-allo-threonine (2.04 g, 17.1 mmol) in DMSO (25 mL) at room temperature The reaction mixture was heated to 80° C. and stirred for 72 h then allowed to cool to room temperature. H2O (200 mL) was added and the brown solution was extracted with MTBE (200 mL). The aqueous layer was cooled to 0° C. and solid citric acid monohydrate was added in 200 mg portions until the evolution of gas ceased. The aqueous layer was then extracted with EtOAc (3×200 mL). The combined organic layers were washed with brine (2×300 mL), dried with Na2SO4, filtered and concentrated to provide the title compound (1.44 g, 32%): 1H NMR (500 MHz, acetone-d6, δ in ppm) 7.47 (d, J=8.6 Hz, 2H), 6.70 (d, J=8.6 Hz, 2H), 5.46 (d, J=8.7 Hz, 1H), 4.55-4.43 (m, 1H), 4.27 (dd, J=5.9 Hz, 8.7 Hz, 1H), 2.90-2.81 (m, 2H), 1.33 (d, J=6.3 Hz, 3H), 1.21 (t, J=7.6 Hz, 3H).

reactant | K2CO3 | 22.8 mmol, 3.15 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-chloro-3-ethyl-4-fluorobenzonitrile | 11.4 mmol, 2.1 g | ClC1=C(C#N)C=CC(=C1CC)F | C9H7ClFN
reactant | D-allo-threonine | 17.1 mmol, 2.04 g | N[C@H]([C@H](O)C)C(=O)O | C4H9NO3
reactant | H2O | 200 mL | O | H2O
solvent | DMSO | 25 mL | CS(=O)C | C2H6OS
product | (2R,3R)-2-(3-Chloro-4-cyano-2-methylphenylamino)-3-hydroxybutanoic acid | 1.44 g, 32% | ClC=1C(=C(C=CC1C#N)N[C@@H](C(=O)O)[C@@H](C)O)C | C12H13ClN2O3
